US06048885
Toluene (2.5 ml), butanol (2.5 ml), cysteamine hydrochloride (0.29 g, 2.54 mmol) and triethylamine (0.26 g, 2.54 mmol) were added to 2-[(α-methyl-3-trifluoromethylbenzylidene)aminooxymethyl]-α-methoxyiminophenylacetaldehyde (0.48 g, 1.27 mmol), and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, half-saturated brine (100 ml) was added, and the mixture was extracted with dichloromethane (50 ml) twice. The extracts were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-[(α-methyl-3-trifluoromethylbenzylidene)aminooxymethyl]phenyl thiazolidin-2-yl ketone O-methyloxime (0.52 g, yield 93.6%) as a colorless oil.

reactant | Toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | cysteamine hydrochloride | 2.54 mmol, 0.29 g | Cl.NCCS
reactant | triethylamine | 2.54 mmol, 0.26 g | C(C)N(CC)CC | C6H15N
reactant | 2-[(α-methyl-3-trifluoromethylbenzylidene)aminooxymethyl]-α-methoxyiminophenylacetaldehyde | 1.27 mmol, 0.48 g | CC(C1=CC(=CC=C1)C(F)(F)F)=NOCC1=C(C=CC=C1)C(C=O)=NOC | C19H17F3N2O3
solvent | brine | 100 ml | [Cl-].[Na+].O
solvent | butanol | 2.5 ml | C(CCC)O | C4H10O
product | 2-[(α-methyl-3-trifluoromethylbenzylidene)aminooxymethyl]phenyl thiazolidin-2-yl ketone O-methyloxime | 0.52 g, yield 93.6% | CON=C(C1=C(C=CC=C1)CON=C(C1=CC(=CC=C1)C(F)(F)F)C)C1SCCN1 | C21H22F3N3O2S
